US06974812B2
(B) 2-Chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(4-methylcarbamoylmethyl-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzamide
A slurry of (2-{4-Chloro-3-[2-(2-Chloro-phenyl)-ethylcarbamoyl]-phenyl}-3,5-dioxo-2,5-dihydro-3H-[1,2,4]triazin-4-yl)-acetic acid (71.4 mg, 0.154 mmol), methylamine HCl (15.6 mg, 0.231 mmol), EDCI (44.4 mg, 0.231 mmol), and DMAP (75.5 mg, 0.616 mmol) in DMF (1.0 mL) were stirred at ambient temperature for 20 hours. The reaction was diluted with 1N HCl, and let stir for 5 hours. The crude was filtered and triterated from hexane to give the title compound (20 mg). LCMS (m/z) 476.1 M+1.

reactant | (2-{4-Chloro-3-[2-(2-Chloro-phenyl)-ethylcarbamoyl]-phenyl}-3,5-dioxo-2,5-dihydro-3H-[1,2,4]triazin-4-yl)-acetic acid | 0.154 mmol, 71.4 mg | ClC1=C(C=C(C=C1)N1N=CC(N(C1=O)CC(=O)O)=O)C(NCCC1=C(C=CC=C1)Cl)=O | C20H16Cl2N4O5
reactant | methylamine HCl | 0.231 mmol, 15.6 mg | Cl.CN
reactant | EDCI | 0.231 mmol, 44.4 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 0.616 mmol, 75.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1N | Cl | ClH
product | 2-Chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(4-methylcarbamoylmethyl-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzamide | 20 mg | ClC1=C(C(=O)NCCC2=C(C=CC=C2)Cl)C=C(C=C1)N1N=CC(N(C1=O)CC(NC)=O)=O | C21H19Cl2N5O4
